US08278343B2
3-(4′-Cyano-biphenyl-4-yloxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid (enantiomer 1)
Lithium hydroxide (16 mg, 0.67 mmol) was added to a stirred solution of 3-(4′-cyano-biphenyl-4-yloxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (see Preparation 29) (105 mg, 0.22 mmol) in ethanol (1 mL) and water (1 mL). The resulting mixture was stirred at RT for 5 hours. The mixture was concentrated under reduced pressure to remove ethanol and the residue was partitioned between ethyl acetate (5 mL) and 2M HCl aqueous solution (5 mL). The organic layer was washed with brine (5 mL), dried over magnesium sulphate and concentrated under reduced pressure to afford a white solid. This was recrystallised from isopropyl alcohol (2.5 mL) to afford the title compound as a white solid (76 mg, 77%).

reactant | Lithium hydroxide | 0.67 mmol, 16 mg | [OH-].[Li+]
reactant | 3-(4′-cyano-biphenyl-4-yloxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | 0.22 mmol, 105 mg | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C28H25FN2O4
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | 3-(4′-Cyano-biphenyl-4-yloxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid | 76 mg, 77% | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC1(CN(CC1)C(C1=CC=C(C=C1)F)=O)C(=O)O | C26H21FN2O4
